US04734419
To a solution of 7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazoline (2.80 g) in N,N-dimethylformamide (56 ml) was added sodium hydride (60% in mineral oil, 334 mg) with stirring at 0° C. under an atmosphere of nitrogen and the mixture was stirred at room temperature for 1 hour. To this mixture was added ethyl bromoacetate (0.85 ml) dropwise and the mixture was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure to give a residue, which was poured into water and extracted with ethyl acetate. The extract was washed with water and dried. Removal of the solvent followed by recrystallization from isopropyl either gave ethyl 2-[7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate (3.11 g).

reactant | 7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazoline | 2.80 g | BrC1=CC=C2C(N(C(NC2=C1)=O)CC1=C(C=C(C=C1)Br)F)=O | C15H9Br2FN2O2
reactant | sodium hydride | 334 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 0.85 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 56 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[7-bromo-3-(4-bromo-2-fluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate | 3.11 g | BrC1=CC=C2C(N(C(N(C2=C1)CC(=O)OCC)=O)CC1=C(C=C(C=C1)Br)F)=O | C19H15Br2FN2O4
